US05462940
A stirred solution of 4-(2-hydroxyethyl)piperazine (3.83 g, 0.03 mole) in AR grade dimethylformamide (130 ml) is treated with 1-[[[5-(4-chlorophenyl)-2-furanyl]methylene]amino]-3-(3-chloropropyl)-2,4-imidazolidinedione (6.92 g, 0.015 mole). The reaction solution is heated at near reflux for 1.5 hours and then concentrated under reduced pressure to leave an oily residue. Said residue is treated with saturated sodium bicarbonate solution to give a yellow mixture. The mixture is filtered and washed with water to give 3.92 g crude product as the free base. The solid is dissolved in alcohol and treated with a mixture of saturated ethanolic/HCl. The solution forms a crystalline solid after 5 minutes. The solid is collected by filtration to give the crude product. 1-[[[5-(4-Chlorophenyl)-2-furanyl]methylene]amino]-3-[3-[4-(2-hydroxyethyl)-1-piperazinyl]propyl]-2,4-imidazolidinedione dihydrochloride is isolated upon one recrystallization from 95% alcohol (2.57 g).

reactant | 4-(2-hydroxyethyl)piperazine | 0.03 mole, 3.83 g | OCCN1CCNCC1 | C6H14N2O
reactant | 1-[[[5-(4-chlorophenyl)-2-furanyl]methylene]amino]-3-(3-chloropropyl)-2,4-imidazolidinedione | 0.015 mole, 6.92 g | ClC1=CC=C(C=C1)C1=CC=C(O1)C=NN1C(N(C(C1)=O)CCCCl)=O | C17H15Cl2N3O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | HCl | Cl | ClH
solvent | dimethylformamide | 130 ml | CN(C=O)C | C3H7NO
product | 1-[[[5-(4-Chlorophenyl)-2-furanyl]methylene]amino]-3-[3-[4-(2-hydroxyethyl)-1-piperazinyl]propyl]-2,4-imidazolidinedione dihydrochloride | Cl.Cl.ClC1=CC=C(C=C1)C1=CC=C(O1)C=NN1C(N(C(C1)=O)CCCN1CCN(CC1)CCO)=O | InChI=1S/C23H28ClN5O4.2ClH/c24-19-4-2-18(3-5-19)21-7-6-20(33-21)16-25-29-17-22(31)28(23(29)32)9-1-8-26-10-12-27(13-11-26)14-15-30;;/h2-7,16,30H,1,8-15,17H2;2*1H
